US07932246B2
Ethyl 2-[5-(naphthalene-2-sulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyrimidine-5-carboxylate
To a suspension of ethyl 2-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-ylpyrimidine-5-carboxylate (0.271 g, 1.0 mmol) in pyridine (5 ml) was added 2-naphthalene sulfonyl chloride (0.269 g, 1.18 mmol). The mixture was stirred for 3 h, then water (25 ml) was added and the product collected by filtration. The product was washed with further water and then dried overnight under vacuum to give the title compound (0.231 g, 51%). 1H NMR (300 MHz, CDCl3) δ: 1.39 (3H, t, J=6.9 Hz), 2.92-3.07 (2H, m), 3.29 (2H, dd, J=3.9, 10.2 Hz), 3.45 (2H, dd, J=3.9, 12.3 Hz), 3.59 (2H, dd, J=7.2, 10.2 Hz), 4.35 (2H, q, J=7.2 Hz), 7.58-7.75 (2H, m), 7.82 (1H, dd, J=1.8, 8.7 Hz), 7.90-8.05 (2H, m), 8.40 (1H, s), 8.77 (2H, s).

reactant | ethyl 2-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-ylpyrimidine-5-carboxylate | 1.0 mmol, 0.271 g | C1N(CC2C1CNC2)C2=NC=C(C=N2)C(=O)OCC | C13H18N4O2
reactant | 2-naphthalene sulfonyl chloride | 1.18 mmol, 0.269 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | water | 25 ml | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-[5-(naphthalene-2-sulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyrimidine-5-carboxylate | 0.231 g, 51% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC2C(C1)CN(C2)C2=NC=C(C=N2)C(=O)OCC | C23H24N4O4S
